US07678803B2
2,3,4-Trifluoro-benzonitrile (3.00 g, 19.1 mmol) is mixed with dimethylacetamide (30 mL). Formamidine acetate (1.99 g, 19.1 mmol) and diisopropylethyl amine (10 mL, 57.3 mmol) are added, and the resulting reaction mixture is slowly heated. Upon heating, the starting heterogeneous mixture slowly turns into a homogeneous solution. At 80° C., precipitates start to form. The reaction mixture proceeds at 80° C. for ˜30 minutes before it is cooled and filtered. The collected solid is further washed with DCM to afford 1.50 g of 7,8-Difluoro-quinazolin-4-ylamine (43% yield) as white solid. LC/MS found m/z=182 [M+H]+.

reactant | 2,3,4-Trifluoro-benzonitrile | 19.1 mmol, 3.00 g | FC1=C(C#N)C=CC(=C1F)F | C7H2F3N
reactant | Formamidine acetate | 19.1 mmol, 1.99 g | C(C)(=O)O.C(=N)N
reactant | diisopropylethyl amine | 57.3 mmol, 10 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylacetamide | 30 mL | CC(=O)N(C)C | C4H9NO
product | 7,8-Difluoro-quinazolin-4-ylamine | 1.50 g, 43% yield | FC1=CC=C2C(=NC=NC2=C1F)N | C8H5F2N3
